US07105507B2
(RS)-1,1-Dimethylethyl 4-Hydroxymethyl-4-(1,2-dihydroxyethyl)-1-piperidinecarboxylate
A slurry of palladium on carbon (10%, 100 mg) in ethanol (10 mL) was added to a solution of (RS)-1,1-dimethylethyl 4-(1,2-dihydroxyethyl)-4-(phenylmethoxymethyl)-1-piperidinecarboxylate (Description 97, 1.05 g, 2.9 mmol) in ethanol (30 mL) and the mixture was shaken under hydrogen (50 psi) for 72 hours. The mixture was filtered through Celite™ and the solvent was evaporated under reduced pressure to give the title compound as a pale oil (615 mg, 77%). m/z (ES+) 276 (M+1).

reactant | (RS)-1,1-dimethylethyl 4-(1,2-dihydroxyethyl)-4-(phenylmethoxymethyl)-1-piperidinecarboxylate | 2.9 mmol, 1.05 g | OC(CO)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC=CC=C1 | C20H31NO5
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | (RS)-1,1-Dimethylethyl 4-Hydroxymethyl-4-(1,2-dihydroxyethyl)-1-piperidinecarboxylate | 615 mg, 77% | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C(CO)O | C13H25NO5
